US04640913
N-Acetyl-O-(tetrahydro-2H-pyran-2-yl)-L-serine, methyl ester
To a solution of about 4.50 g of N-acetyl-L-serine, methyl ester in about 100 ml of dry methylene chloride was added about 2.93 ml of distilled tetrahydro-2H-pyran and about 0.34 ml of borontrifluoroetherate. The mixture was stirred under argon for about 7 hours, then washed with saturated sodium bicarbonate and brine, dried and the solvent removed under reduced pressure, giving about 6 g of the desired title compound.

reactant | N-acetyl-L-serine, methyl ester | about 4.50 g | C(C)(=O)N[C@@H](CO)C(=O)OC | C6H11NO4
reactant | tetrahydro-2H-pyran | about 2.93 ml | O1CCCCC1 | C5H10O
solvent | methylene chloride | about 100 ml | C(Cl)Cl | CH2Cl2
product | N-Acetyl-O-(tetrahydro-2H-pyran-2-yl)-L-serine, methyl ester | about 6 g | C(C)(=O)N[C@@H](COC1OCCCC1)C(=O)OC | C11H19NO5
